### PR TITLE
[Merged by Bors] - chore: lower instance priority of CancelMonoid.toMonoid etc

### PR DESCRIPTION
**Pull request by Vierkantor**
This PR lowers the instance priority of inheritance going to cancellative structures, specifically those matching the regular expression `(Add)?(Left|Right)?Cancel(Comm)?(Monoid|Semigroup)(WithZero)?`.

Most of these cancellative structures either derive from group structures or from (integral) domain structures (including fields). Thus we should be going through the group and semiring hierarchy before going through the cancellative hierarchy. In particular, `IsDomain` is a mixin depending on `Semiring` so trying to synthesize an `IsDomain` instance to satisfy `Monoid` before even trying `Semiring` makes no sense.

We came across this issue when adding an extra way to find an `IsDomain` instance, because this slows down the failing cancellative search path enough to cause timeouts.

Zulip thread: https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Why.20is.20.60simpNF.60.20complaining.20here.3F

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by Vierkantor** [comment]
!bench

File: Mathlib/Algebra/GroupWithZero/Defs.lean [hunk 1]
```diff
@@ -165,6 +165,8 @@ end CommSemigroup
 class CancelCommMonoidWithZero (M₀ : Type _) extends CommMonoidWithZero M₀, IsLeftCancelMulZero M₀
 #align cancel_comm_monoid_with_zero CancelCommMonoidWithZero
 
+attribute [instance 75] CancelCommMonoidWithZero.toCommMonoidWithZero -- See note [lower cancel priority]
```
Comment (Vierkantor) [inline Mathlib/Algebra/GroupWithZero/Defs.lean:168]:
```suggestion
-- See note [lower cancel priority]
attribute [instance 75] CancelCommMonoidWithZero.toCommMonoidWithZero
```

File: Mathlib/FieldTheory/RatFunc.lean [hunk 2]
```diff
@@ -197,7 +197,7 @@ theorem mk_eq_div' (p q : K[X]) :
     RatFunc.mk p q = ofFractionRing (algebraMap _ _ p / algebraMap _ _ q) := by rw [RatFunc.mk]
 #align ratfunc.mk_eq_div' RatFunc.mk_eq_div'
 
-theorem mk_zero (p : K[X]) : RatFunc.mk p 0 = ofFractionRing 0 := by
+theorem mk_zero (p : K[X]) : RatFunc.mk p 0 = ofFractionRing (0 : FractionRing K[X]) := by
```
Comment (Vierkantor) [inline Mathlib/FieldTheory/RatFunc.lean:200]: This one times out without the type ascription, because Lean 4 will happily go off and synthesize a ridiculous instance on the type with metavars `(?K[X])⁰` that it then takes several seconds to (correctly) fail unifying with the actual instance before it can backtrack. Apparently before tweaking the priorities, the wrong instance was more obviously wrong.

This type ascription brings the elaboration time down from about half a second (on master) / 20 seconds (on the previous commit) to about a quarter of a second (on both branches).

**Comment by Vierkantor** [comment]
!bench

**Comment by eric-wieser** [comment]
I think [this](http://speedcenter.informatik.kit.edu/mathlib4/compare/e7b27246-a3e6-496a-b552-ff4b45c7236e/to/e7b27246-a3e6-496a-b552-ff4b45c7236e?hash1=fb884ddfb1f319b41225168cd6292844f46a4691&hash2=4305e70459459168cb5f47e1568c58a8dc50a019) is a plausible comparison.

File: Mathlib/Algebra/Group/Defs.lean [hunk 3]
```diff
@@ -391,6 +401,8 @@ class RightCancelSemigroup (G : Type u) extends Semigroup G where
 #align right_cancel_semigroup.ext_iff RightCancelSemigroup.ext_iff
 #align right_cancel_semigroup.ext RightCancelSemigroup.ext
 
+attribute [instance 75] RightCancelSemigroup.toSemigroup -- See note [lower cancel priority]
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Defs.lean:404]: What's the default priority here? Is it 1000 or 100?

Comment (Vierkantor) [reply Mathlib/Algebra/Group/Defs.lean:404]: All instances, also the "inheritance" ones generated by `extends`, by default get a priority of 1000. Some of the manually defined inheritance instances have already been assigned priority 100, so IMO we should follow mathlib3 principles and stick with 100 for inheritance plus or minus a bonus. I chose 75 because that is also used in `SetLike`'s hierarchy.

**Comment by Vierkantor** [comment]
> I think [this](http://speedcenter.informatik.kit.edu/mathlib4/compare/e7b27246-a3e6-496a-b552-ff4b45c7236e/to/e7b27246-a3e6-496a-b552-ff4b45c7236e?hash1=fb884ddfb1f319b41225168cd6292844f46a4691&hash2=4305e70459459168cb5f47e1568c58a8dc50a019) is a plausible comparison.

Note that this benchmark is on an older commit, and I expect larger changes for [d444343](https://github.com/leanprover-community/mathlib4/pull/6145/commits/d4443430f25df7a6036ba142a1f4de45b77b6325).

File: Mathlib/Algebra/Group/Defs.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Group/Defs.lean:404]: Can we change core to set everything to 100 automatically? I worry that we're just making a mess tweaking everything manually if the defaults are still far from desirable.

**Comment by Vierkantor** [comment]
> Here are the [benchmark results](http://speedcenter.informatik.kit.edu/mathlib4/run-detail/3206bb2d-3445-4bde-9489-e3da38e342b4) for commit [d444343](https://github.com/leanprover-community/mathlib4/commit/d4443430f25df7a6036ba142a1f4de45b77b6325).Found no runs to compare against.

[Comparison with the same commit Eric used.](http://speedcenter.informatik.kit.edu/mathlib4/compare/e7b27246-a3e6-496a-b552-ff4b45c7236e/to/e7b27246-a3e6-496a-b552-ff4b45c7236e?hash1=fb884ddfb1f319b41225168cd6292844f46a4691&hash2=d4443430f25df7a6036ba142a1f4de45b77b6325)

File: Mathlib/Algebra/Group/Defs.lean (hunk 3 above)
Comment (Vierkantor) [reply Mathlib/Algebra/Group/Defs.lean:404]: One thing that I'm wondering about is: should we even bother with instance priority = 100, given that instances are now matched by discrimination tree first? I don't know enough about Lean 4 synthesis at scale to say for sure. I do know, however, since there are instances with priority 100 already, these instances should have a lower priority than those, and this change is making things work that should work.

Comment (eric-wieser) [reply Mathlib/Algebra/Group/Defs.lean:404]: > given that instances are now matched by discrimination tree first?

In that an instance of the form `SomeClass (Foo _)` if it matches is always tried first over `SomeClass (_)`, even if it has lower priority? Or is the tree just used to break ties?

Comment (Vierkantor) [reply Mathlib/Algebra/Group/Defs.lean:404]: Looks like the tree is not used to break ties at all!
```
class Foo (α : Type)
class Bar (α : Type) extends Foo α -- Try moving this line to after the `attribute` line

instance : Foo ℤ := ⟨⟩

attribute [instance 1] instFoo -- Try commenting out this line

set_option trace.Meta.synthInstance true
example : Foo ℤ := by infer_instance
```

**Comment by j-loreaux** [comment]
Thanks! I think lowering these priorities makes a lot of sense.

bors merge
